data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:1]1[cH:8][c:27]([CH:3]=[C:34]2[CH:28]=[CH:18][C:25](=[N+:26]([O-:23])[O-:24])[CH:19]=[CH:29]2)[cH:9][cH:2][c:10]1[N+:30](=[O:7])[O-:11].[cH:4]1[c:12]([N+:20](=[O:15])[O-:32])[cH:5][c:13]([N+:21](=[O:16])[O-:31])[cH:6][c:14]1[N+:22](=[O:17])[O-:33]>>[cH:1]1[cH:8][c:27]([CH:3]([CH:4]2[C:12](=[N+:20]([O-:15])[O-:32])[CH:5]=[C:13]([N+:21](=[O:16])[O-:31])[CH:6]=[C:14]2[N+:22](=[O:17])[O-:33])[c:34]2[cH:28][cH:18][c:25]([N+:26](=[O:23])[O-:24])[cH:19][cH:29]2)[cH:9][cH:2][c:10]1[N+:30](=[O:7])[O-:11]", "epd": [["LP-/Pi+", [23], [26, 23]], ["Pi-/Pi+", [25, 26], [18, 25]], ["Pi-/Pi+", [28, 18], [34, 28]], ["Pi-/Sigma+", [3, 34], [3, 4]], ["Pi-/Pi+", [4, 12], [12, 20]], ["Pi-/LP+", [20, 15], [15]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([N+:4](=[O:35])[O-:39])[s:5][cH:2][c:6]([N+:3](=[O:10])[O-:33])[cH:34]1.[c:7]1([P:32]([c:8]2[cH:15][cH:21][c:37]([N:12]([CH3:28])[CH3:29])[cH:22][cH:16]2)[c:9]2[cH:17][cH:23][c:38]([N:13]([CH3:30])[CH3:31])[cH:24][cH:18]2)[cH:14][cH:20][c:36]([N:11]([CH3:26])[CH3:27])[cH:25][cH:19]1>>[C:1]1([N+:4](=[O:35])[O-:39])=[CH:34][C:6](=[N+:3]([O-:10])[O-:33])[CH:2]([P+:32]([c:7]2[cH:14][cH:20][c:36]([N:11]([CH3:26])[CH3:27])[cH:25][cH:19]2)([c:8]2[cH:15][cH:21][c:37]([N:12]([CH3:28])[CH3:29])[cH:22][cH:16]2)[c:9]2[cH:17][cH:23][c:38]([N:13]([CH3:30])[CH3:31])[cH:24][cH:18]2)[S:5]1", "epd": [["LP-/Sigma+", [32], [32, 2]], ["Pi-/Pi+", [2, 6], [6, 3]], ["Pi-/LP+", [3, 10], [10]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[c:1]1([CH:14]=[N+:9]=[N-:24])[cH:6][cH:4][cH:15][cH:5][cH:7]1.[cH:2]1[cH:13][cH:3][c:8]2[c:16]([o+:10][c:12](-[c:22]3[cH:19][cH:17][cH:23][cH:18][cH:20]3)[cH:11][cH:21]2)[cH:25]1>>[c:1]1([CH:14]([N+:9]#[N:24])[CH:21]2[c:8]3[cH:3][cH:13][cH:2][cH:25][c:16]3[O:10][C:12]([c:22]3[cH:19][cH:17][cH:23][cH:18][cH:20]3)=[CH:11]2)[cH:6][cH:4][cH:15][cH:5][cH:7]1", "epd": [["LP-/Pi+", [24], [9, 24]], ["Pi-/Sigma+", [14, 9], [14, 21]], ["Pi-/Pi+", [21, 11], [11, 12]], ["Pi-/LP+", [12, 10], [10]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:2][CH2:10][O:8][C:21]([CH:3]=[C:11]([CH3:23])[N:33]=[N:17][C:4](=[O:18])[NH:20][c:24]1[cH:30][cH:14][cH:27][cH:15][cH:31]1)=[O:19].[CH:1]1([C:6](=[O:22])[O:34][CH3:9])[CH2:12][CH2:28][CH2:25][N:32]1[C:26]1=[CH:13][CH2:5][CH2:29][CH2:16][CH2:7]1>>[CH:1]1([C:6](=[O:22])[O:34][CH3:9])[CH2:12][CH2:28][CH2:25][N+:32]1=[C:26]1[CH2:7][CH2:16][CH2:29][CH2:5][CH:13]1[CH:3]([C:11]([CH3:23])=[N:33][N:17]=[C:4]([O-:18])[NH:20][c:24]1[cH:30][cH:14][cH:27][cH:15][cH:31]1)[C:21]([O:8][CH2:10][CH3:2])=[O:19]", "epd": [["LP-/Pi+", [32], [26, 32]], ["Pi-/Sigma+", [13, 26], [13, 3]], ["Pi-/Pi+", [3, 11], [11, 33]], ["Pi-/Pi+", [33, 17], [17, 4]], ["Pi-/LP+", [4, 18], [18]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N:3]1([c:28]2[cH:33][cH:7][n:40][cH:8][cH:34]2)[CH2:22][CH2:37][CH2:9][CH:23]1[C:31]([c:29]1[cH:12][cH:16][cH:26][cH:17][cH:13]1)([c:30]1[cH:14][cH:18][cH:27][cH:19][cH:15]1)[F:35].[c:1]12[c:5]([cH:24][cH:20][cH:38][cH:10]1)-[c:6]1[c:2]([cH:11][cH:39][cH:21][cH:25]1)[N+:36]2=[CH:4][CH3:32]>>[c:1]12[c:5]([c:6]3[c:2]([cH:11][cH:39][cH:21][cH:25]3)[n:36]1[CH:4]([CH3:32])[n:40]1[cH:7][cH:33][c:28](=[N+:3]3[CH2:22][CH2:37][CH2:9][CH:23]3[C:31]([c:29]3[cH:12][cH:16][cH:26][cH:17][cH:13]3)([c:30]3[cH:14][cH:18][cH:27][cH:19][cH:15]3)[F:35])[cH:34][cH:8]1)[cH:24][cH:20][cH:38][cH:10]2", "epd": [["LP-/Pi+", [3], [28, 3]], ["Pi-/Pi+", [34, 28], [8, 34]], ["Pi-/Sigma+", [40, 8], [40, 4]], ["Pi-/LP+", [4, 36], [36]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[O-:11][N+:26]([O-:12])=[C:19]1[CH:18]=[CH:30][CH:17]=[CH:20][C:29]1=[O:16].[O:1]=[C:24]1[N:5]([CH3:21])[C:23](=[O:7])[N:6]([CH3:22])[C:25](=[O:2])[C:13]1=[CH:15][c:8]1[cH:27][cH:3][c:14]([O:10][CH3:9])[cH:4][cH:28]1>>[O-:1][c:24]1[n:5]([CH3:21])[c:23](=[O:7])[n:6]([CH3:22])[c:25](=[O:2])[c:13]1[CH:15]([c:8]1[cH:27][cH:3][c:14]([O:10][CH3:9])[cH:4][cH:28]1)[O:16][c:29]1[c:19]([N+:26](=[O:11])[O-:12])[cH:18][cH:30][cH:17][cH:20]1", "epd": [["LP-/Pi+", [11], [26, 11]], ["Pi-/Pi+", [19, 26], [29, 19]], ["Pi-/Sigma+", [16, 29], [16, 15]], ["Pi-/Pi+", [15, 13], [13, 24]], ["Pi-/LP+", [24, 1], [1]]]}
